US06162927
N-Boc-N-propyl-O-allylhydroxylamine
N-Boc-O-allylhydroxylamine (6.5 g) from the above procedure was dissolved in dry THF (25 mL) and the solution cooled to 0° C. in an ice bath. Sodium hydride (1.5 g, 60% dispersion in oil) was added portionwise over 5 min. The resulting mixture was stirred for 30 min at 0° C. 1-Iodopropane (3.8 mL) was added dropwise to the mixture. The reaction was stirred at 0° C. for 1 hour, then stirred overnight at room temperature. The THF was removed in vacuo and the residue taken up in EtOAc (50 mL) and washed with water (1×50 mL), saturated sodium bicarbonate solution (3×50 mL), 1N phosphoric acid (3×50 mL), and brine (1×50 mL). The organic layer was dried with sodium sulfate and evaporated to give a light yellow oil, which was purified by flash chromatography on silica gel eluting with 5% EtOAc/hexanes to give the title compound as a colorless oil (6.0 g).

reactant | N-Boc-O-allylhydroxylamine | 6.5 g | C(=O)(OC(C)(C)C)NOCC=C | C8H15NO3
reactant | Sodium hydride | 1.5 g | [H-].[Na+]
reactant | 1-Iodopropane | 3.8 mL | ICCC | C3H7I
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N-Boc-N-propyl-O-allylhydroxylamine | 6.0 g | C(=O)(OC(C)(C)C)N(OCC=C)CCC | C11H21NO3
